### PR TITLE
tentative definition of connected component

### PR DESCRIPTION
**Pull request by affeldt-aist**
NB: the name `bigcup_sup` comes from `finset`

### CODE REVIEW

File: theories/topology.v [hunk 1]
```diff
@@ -2924,6 +2940,61 @@ exists (fun i => if i is false then A `\` C else A `&` C); split.
...
+  rewrite -EU => /(_ (bigcup_sup _) (cA _ Pj)) [//| | AjE1]; first exact.
+  exfalso; have E1c := AjE1 _ (AIc _ Pj).
+  by move/separated_disjoint : sE; apply/eqP/set0P; exists c.
+rewrite EU subUset => -[_] /(_ _ E1d) E0d; exfalso.
+by move/separated_disjoint : sE; apply/eqP/set0P; exists d.
+Qed.
+
+Definition component (x : T) := \bigcup_(X in [set C | connected C /\ C x]) X.
+
+Lemma connect_component (x : T) : connected (component x).
```
Comment (CohenCyril) [inline theories/topology.v:2995]: `component_connected`

File: theories/topology.v [hunk 2]
```diff
@@ -2924,6 +2940,61 @@ exists (fun i => if i is false then A `\` C else A `&` C); split.
...
+  by move/existsNP => [b /set0P/negP/negPn]; case: b => /eqP ->;
+    rewrite !(setU0,set0U); [left|right]; apply: subIset; right.
+case/not_andP => /eqP/set0P[x []].
+- move=> /closureI[cCx cAx] [Cx Bx]; exfalso.
+  by move: AB; rewrite /separated => -[] + _; apply/eqP/set0P; exists x.
+- move=> [Cx Ax] /closureI[cCx cBx]; exfalso.
+  by move: AB; rewrite /separated => -[] _; apply/eqP/set0P; exists x.
+Qed.
+
+Lemma connected_bigU I (A : I -> set T) (P : I -> Prop) :
```
Comment (CohenCyril) [inline theories/topology.v:2966]:
```suggestion
Lemma bigcup_connected I (A : I -> set T) (P : I -> Prop) :
```

File: theories/topology.v [hunk 3]
```diff
@@ -2924,6 +2940,61 @@ exists (fun i => if i is false then A `\` C else A `&` C); split.
...
+    rewrite !(setU0,set0U); [left|right]; apply: subIset; right.
+case/not_andP => /eqP/set0P[x []].
+- move=> /closureI[cCx cAx] [Cx Bx]; exfalso.
+  by move: AB; rewrite /separated => -[] + _; apply/eqP/set0P; exists x.
+- move=> [Cx Ax] /closureI[cCx cBx]; exfalso.
+  by move: AB; rewrite /separated => -[] _; apply/eqP/set0P; exists x.
+Qed.
+
+Lemma bigcup_connected I (A : I -> set T) (P : I -> Prop) :
+  \bigcap_(i in P) (A i) !=set0 -> (forall i, P i -> connected (A i)) ->
```
Comment (CohenCyril) [inline theories/topology.v:2967]: The precondition `\bigcap_(i in P) (A i) !=set0` looks a bit too strong to me...
Doesn't  ``forall i j, A i `&` A j !=set0`` suffice?

File: theories/topology.v [hunk 4]
```diff
@@ -2924,6 +2940,61 @@ exists (fun i => if i is false then A `\` C else A `&` C); split.
...
+  move=> j Pj.
+  move: (@connected_subset _ _ (A j) sE).
+  rewrite -EU => /(_ (bigcup_sup _) (cA _ Pj)) [//| | AjE1]; first exact.
+  exfalso; have E1c := AjE1 _ (AIc _ Pj).
+  by move/separated_disjoint : sE; apply/eqP/set0P; exists c.
+rewrite EU subUset => -[_] /(_ _ E1d) E0d; exfalso.
+by move/separated_disjoint : sE; apply/eqP/set0P; exists d.
+Qed.
+
+Definition component (x : T) := \bigcup_(X in [set C | connected C /\ C x]) X.
```
Comment (CohenCyril) [inline theories/topology.v:2993]:
```suggestion
Definition connected_component (x : T) := \bigcup_(X in [set C | connected C /\ C x]) X.
```

File: theories/topology.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/topology.v:2967]: The references I am looking at indicates that the `A i`'s must share a point.

**Review by CohenCyril — APPROVED** [review]
LGTM
